US05693630
Bicyclo [2.2.2]octane-1-carboxylic acid (4-{isopropyl-[2-(2-methoxyphenyl)ethyl]amino}butyl)amide
Bicyclo[2.2.2]octane-1-carboxylic acid (0.53 g, 3.4 mmol), and thionyl chloride (1 ml, 13 mmol) dissolved in 10 ml toluene, were heated at 80° C. for 3 h. The solvent was partly removed and the residue added dropwise to a solution of 4-{isopropyl-[2-(2-methoxyphenyl)-ethyl]-aminobutylamine (1.2 g, 4.5 mmol) and triethylamine (3 ml, 20 mmol) in 10 ml methylene chloride at 0° C. and stirred for 1 h at room temperature. The mixture was charged on a silica gel column and eluated with hexane/ethyl acetate/triethylamine (16:4:1) to yield 1.1 g (86%) of an oil.

reactant | Bicyclo[2.2.2]octane-1-carboxylic acid | 3.4 mmol, 0.53 g | C12(CCC(CC1)CC2)C(=O)O | C9H14O2
reactant | thionyl chloride | 13 mmol, 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | isopropyl-[2-(2-methoxyphenyl)-ethyl]-aminobutylamine | 4.5 mmol, 1.2 g | C(C)(C)N(CCCCN)CCC1=C(C=CC=C1)OC | C16H28N2O
reactant | triethylamine | 20 mmol, 3 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate triethylamine | CCCCCC.C(C)(=O)OCC.C(C)N(CC)CC
product | Bicyclo [2.2.2]octane-1-carboxylic acid (4-{isopropyl-[2-(2-methoxyphenyl)ethyl]amino}butyl)amide | 1.1 g, 86% | C(C)(C)N(CCCCNC(=O)C12CCC(CC1)CC2)CCC2=C(C=CC=C2)OC | C25H40N2O2
